US08003651B2
4-Nitrobenzoyl chloride (4.27 g, 23.0 mmol) was added to a 0° C. solution of tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (7.0 g, 20.9 mmol) and triethylamine (4.38 mL, 31.4 mmol) in DCM (110 mL). The reaction mixture was stirred at room temperature overnight, after which saturated NaHCO3 was added. The mixture was stirred for 10 minutes and then extracted with DCM. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude was flashed on Biotage 65M (3:1 hexanes:ethyl acetate loaded crude, then 2:1 hexanes:ethyl acetate eluted tert-butyl 4-((5R,7R)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate and a few mixed fractions. Then tert-butyl 4-((5R,7S)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate was eluted using 1:2 hexanes:ethyl acetate. The fractions with product were concentrated by rotary evaporation to give tert-butyl 4-((5R,7R)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (8.55 g, 84.5% yield) as a yellow foam. LC/MS (APCI+) m/z 484 [M+H]+. 1H NMR (CDCl3) shows single diastereomer). The fractions with other diastereomers were concentrated by rotary evaporation to give tert-butyl 4-((5R,7S)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.356 g, 3.52% yield) as a brown foam. LC/MS (APCI+) m/z 484 [M+H]+.

reactant | 4-Nitrobenzoyl chloride | 23.0 mmol, 4.27 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 20.9 mmol, 7.0 g | O[C@@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H26N4O3
reactant | triethylamine | 31.4 mmol, 4.38 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 110 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-((5R,7R)-5-methyl-7-(4-nitrobenzoyloxy)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 8.55 g, 84.5% yield | C[C@@H]1C[C@H](C=2N=CN=C(C21)N2CCN(CC2)C(=O)OC(C)(C)C)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O | C24H29N5O6
